US07812160B2
To a mixture of methyl {4-(dimethylamino)-2-[4-({[(4-fluorobenzyl)oxy]carbonyl}amino)benzyl]-pyrimidin-5-yl}acetate (45 mg, 0.10 mmol) in tetrahydrofuran (0.5 mL) and methanol (0.5 mL) was added 1N NaOH aq. (0.2 mL). The reaction mixture was stirred for 20 hours at room temperature and concentrated under reduced pressure. The residue was neutralized with 1N hydrochloric acid and concentrated under reduced pressure. This residue was dissolved with chloroform/methanol (10:1) and the insoluble was removed by filtration. The filtrate was concentrated under reduced pressure to give {4-(dimethylamino)-2-[4-({[(4-fluoro-benzyl)oxy]carbonyl}amino)benzyl]pyrimidin-5-yl}acetic acid (35 mg, 80%) as a pale yellow solid.

reactant | methyl {4-(dimethylamino)-2-[4-({[(4-fluorobenzyl)oxy]carbonyl}amino)benzyl]-pyrimidin-5-yl}acetate | 0.10 mmol, 45 mg | CN(C1=NC(=NC=C1CC(=O)OC)CC1=CC=C(C=C1)NC(=O)OCC1=CC=C(C=C1)F)C | C24H25FN4O4
reactant | NaOH | 1N, 0.2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | {4-(dimethylamino)-2-[4-({[(4-fluoro-benzyl)oxy]carbonyl}amino)benzyl]pyrimidin-5-yl}acetic acid | 35 mg, 80% | CN(C1=NC(=NC=C1CC(=O)O)CC1=CC=C(C=C1)NC(=O)OCC1=CC=C(C=C1)F)C | C23H23FN4O4
